US08486962B2
To a solution of 2-methyl-2-(4-nitro-phenyl)-[1,3]dioxolane (100 mg, 0.48 mmol) in benzene (6 ml) was added iron powder (700 mg, 12.5 mmol) and 3 drops of water and then heated to reflux for 30 min. The reaction mixture was cooled, filtered and the filtrate was evaporated to give 4-(2-methyl-[1,3]-dioxolan-2-yl)-phenylamine (60 mg, 70%).

reactant | 2-methyl-2-(4-nitro-phenyl)-[1,3]dioxolane | 0.48 mmol, 100 mg | CC1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO4
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
catalyst | water | 3 drops | O | H2O
catalyst | iron | 12.5 mmol, 700 mg | [Fe] | Fe
product | 4-(2-methyl-[1,3]-dioxolan-2-yl)-phenylamine | 60 mg, 70% | CC1(OCCO1)C1=CC=C(C=C1)N | C10H13NO2
